US07994164B2
(4-Bromo-2-nitro-phenyl)-(4-methyl-piperazin-1-yl)-amine
Heat a mixture of 1-amino-4-methyl piperazine (0.217 mol, 25.0 g), 5-bromo-2-fluoronitrobenzene (0.239 mol, 52.6 g) and triethylamine (0.46 mol, 46 g) in ethyl acetate (900 mL) to reflux for 16 h. Cool the reaction mixture to room temperature, dilute with ethyl acetate, and wash with water and brine. Dry the organic layer over anhydrous sodium sulfate, filter, and concentrate. Purify on a silica gel column using 5% methanol in dichloromethane as eluent to give the title compound (43.2 g, 63%). ES-MS m/z 315 [M+1]+.

reactant | 1-amino-4-methyl piperazine | 0.217 mol, 25.0 g | NN1CCN(CC1)C | C5H13N3
reactant | 5-bromo-2-fluoronitrobenzene | 0.239 mol, 52.6 g | BrC=1C=CC(=C(C1)[N+](=O)[O-])F | C6H3BrFNO2
reactant | triethylamine | 0.46 mol, 46 g | C(C)N(CC)CC | C6H15N
solvent | ethyl acetate | 900 mL | C(C)(=O)OCC | C4H8O2
product | (4-Bromo-2-nitro-phenyl)-(4-methyl-piperazin-1-yl)-amine | 43.2 g, 63% | BrC1=CC(=C(C=C1)NN1CCN(CC1)C)[N+](=O)[O-] | C11H15BrN4O2
